data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_692624_1,[C:1](\[C:2]([C:6]1([O:8][H:10])[C:3]([H:14])([H:15])[N:5]1[H:9])([H:12])[H:13])([C:4]([H:16])([H:17])[H:18])=[N:7]/[H:11]>>[C:1]1([C:4]([H:16])([H:17])[H:18])([N:7]([H:10])[H:11])[C:2]([H:12])([H:13])[C:6](=[O:8])[C:3]([H:14])([H:15])[N:5]1[H:9],22.84225500004169
MR_423680_1,[C@@:1]1([N:6]([H:13])[H:14])([O:8][H:9])[C@:2]([O:7][N:5]([H:11])[H:12])([H:10])[C:4]([H:17])([H:18])[C:3]1([H:15])[H:16]>>[C@:1]([C:2]1([H:10])[C:3]([H:15])([H:16])[C:4]1([H:17])[H:18])([N:6]([H:13])[H:14])([O:7][N:5]([H:11])[H:12])[O:8][H:9],69.76356749999866
MR_430776_0,[C:1]([C:4]([C:3]([C:2]([H:13])([H:14])[H:15])=[O:8])=[C:6]([H:16])[H:17])([N:5]([H:11])[H:12])([O:7][H:9])[H:10]>>[C:1]([C:4]([C:3]([C:2]([H:13])([H:14])[H:15])([O:8][H:9])[H:10])=[C:6]([H:16])[H:17])([N:5]([H:11])[H:12])=[O:7],54.82342000001651
MR_383442_1,[C:1](/[C:3]([N:5]([H:13])[H:14])=[N:8]/[C:2]([H:17])([H:18])[H:19])([N:4]([H:11])[H:12])(/[C:6](=[N:9]\[H:15])[H:16])[O:7][H:10]>>[C:1](=[C:3](/[N:5]([H:13])[H:14])[N:8]([C:2]([H:17])([H:18])[H:19])/[C:6](=[N:9]\[H:15])[H:16])(\[N:4]([H:11])[H:12])[O:7][H:10],54.90876000001506
MR_5774_1,[C:1]1([C:5]([O:7][C:3]([H:11])([H:12])[H:13])=[O:8])([H:9])[C:2]([C:4]([H:14])([H:15])[H:16])([H:10])[O:6]1>>[C:1]([C:2]([C:4]([H:14])([H:15])[H:16])([C:5]([O:7][C:3]([H:11])([H:12])[H:13])=[O:8])[H:10])(=[O:6])[H:9],59.11300999999412
MR_121529_0,[C:1]([C:5]([C:2]([H:11])([H:14])[H:15])=[C:4]([C:6]([C:3]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])[O:8][H:9])([H:10])([H:12])[H:13]>>[C:1]([C:5]1([C:2]([H:11])([H:14])[H:15])[C:4]([O:8][H:9])=[C:6]([C:3]([H:16])([H:17])[H:18])[C:7]1([H:19])[H:20])([H:10])([H:12])[H:13],42.093327499983246
MR_232702_0,[C:1](/[C:4]([C:3]([H:16])([H:17])[H:18])=[C:5](\[O:8][H:10])[H:12])([O:6][C:2]([H:13])([H:14])[H:15])([O:7][H:9])[H:11]>>[C:1](=[C:4](/[C:3]([H:16])([H:17])[H:18])[C:5]([O:6][C:2]([H:13])([H:14])[H:15])([O:8][H:10])[H:12])(\[O:7][H:9])[H:11],52.23874750001471
MR_199173_2,[C:1]([C:2]([H:15])([H:16])[H:17])(/[C:5]([C:3]([H:18])([H:19])[H:20])=[C:4](\[N:6]([H:11])[H:12])[O:8][H:9])([N:7]([H:13])[H:14])[H:10]>>[C:1](\[C:2]([H:15])([H:16])[H:17])(=[C:5](/[C:3]([H:18])([H:19])[H:20])[C:4]([N:6]([H:11])[H:12])([N:7]([H:13])[H:14])[O:8][H:9])[H:10],63.18674000001735
MR_95778_0,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([O:7][H:11])=[O:8])([C:4]([N:5]([H:12])[H:13])=[O:9])[O:6][H:10]>>[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:4](/[N:5]([H:12])[H:13])[O:9][C:3]([O:7][H:11])=[O:8])[O:6][H:10],67.10861499992461
MR_46411_0,[C:1]([C:2](/[N:7]=[C:5](\[C:3]([H:15])([H:16])[H:17])[H:14])([H:12])[H:13])([O:6][N:4]([H:8])[H:9])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[C:2]([H:12])([H:13])[N:7]1[C@:5]([C:3]([H:15])([H:16])[H:17])([O:6][N:4]([H:8])[H:9])[H:14],69.90287250000364
MR_92230_1,[C:1](=[C:4]([C:3]([C:2]([O:5][H:8])=[O:7])([O:6][H:9])[H:12])[H:13])([H:10])[H:11]>>[C:1](/[C:4](=[C:3](\[C:2]([O:5][H:8])=[O:7])[H:12])[H:13])([O:6][H:9])([H:10])[H:11],63.67493499999753
MR_687269_1,[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])([N:5](/[C:6]([C:2]([H:13])([H:14])[H:15])=[N:8]\[N:7]([H:11])[H:12])[H:9])[H:10]>>[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])([N:8](/[C:6]([C:2]([H:13])([H:14])[H:15])=[N:5]/[H:9])[N:7]([H:11])[H:12])[H:10],68.3008650000177
MR_415361_0,[C:1]([N:2]1[C:3](=[C:7]([H:15])[H:16])[O:8][C:6]([H:11])=[C:4]1[N:5]([H:9])[H:10])([H:12])([H:13])[H:14]>>[C:1](/[N:2]=[C:4](\[N:5]([H:9])[H:10])[C:6]1([H:11])[C:3](=[C:7]([H:15])[H:16])[O:8]1)([H:12])([H:13])[H:14],70.7983150000257
MR_255264_0,[C:1]1([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[C:2]([O:9][H:10])([H:11])[C:8]([C:6]([H:21])([H:22])[H:23])=[C:7]1[C:5]([H:18])([H:19])[H:20]>>[C:1]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])=[C:7]([C:5]([H:18])([H:19])[H:20])/[C:8](=[C:2](/[O:9][H:10])[H:11])[C:6]([H:21])([H:22])[H:23],28.303387500021984
MR_323488_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([N:4]([H:10])[H:11])=[O:8])([C:5](=[C:6]([H:16])[H:17])[H:12])[O:7][H:9]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([N:4]([H:10])[H:11])([C:5](=[C:6]([H:16])[H:17])[H:12])[O:8][H:9])=[O:7],53.42283999998571
MR_491604_2,[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:3]([N:7]=[C:5]([H:16])[H:17])=[N:8]\[H:12])([N:4]([H:10])[H:11])[O:6][H:9]>>[C:1]1([C:2]([H:13])([H:14])[H:15])([N:4]([H:10])[H:11])[C:3]([O:6][H:9])([N:7]=[C:5]([H:16])[H:17])[N:8]1[H:12],44.48724000000297
MR_617640_1,[C:1]([N:3]([N:2](/[C:4]([N:6]([H:13])[H:14])=[N:8]/[O:7][H:9])[N:5]([H:11])[H:12])[H:10])([H:15])([H:16])[H:17]>>[C:1]([N:3]([N:8](/[C:4](=[N:2]\[N:5]([H:11])[H:12])[N:6]([H:13])[H:14])[O:7][H:9])[H:10])([H:15])([H:16])[H:17],67.41671750000279
MR_551681_0,[C:1]([N:3]([N:4]([O:7][H:9])[H:11])/[C:5](=[C:6](/[C:2]([H:16])([H:17])[H:18])[H:12])[O:8][H:10])([H:13])([H:14])[H:15]>>[C:1](/[N:3]=[C:5](/[C:6]([C:2]([H:16])([H:17])[H:18])([N:4]([O:7][H:9])[H:11])[H:12])[O:8][H:10])([H:13])([H:14])[H:15],48.6864699999947
